US04171367
(1,3-Dimethyl-5-pyrazolyl) thiourea
1,3-Dimethyl-5-amino pyrazole (111.0 g.) and benzoyl iso thiocyanate (180.0 g.) were reacted as described in Example IV to give 110.3 g. of the product, mp 221°-224° C.

reactant | 1,3-Dimethyl-5-amino pyrazole | 111.0 g | CN1N=C(C=C1N)C | C5H9N3
reactant | benzoyl iso thiocyanate | 180.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | (1,3-Dimethyl-5-pyrazolyl) thiourea | CN1N=C(C=C1NC(=S)N)C | C6H10N4S
